US07838499B2
Preparation of 2-(4-(5-bromo-2-chlorobenzyl)phenyl)ethanol (Intermediate BH)
4-(5-bromo-2-chlorobenzyl)phenethyl acetate (intermediate BG) (400 mg, 1.09 mmol) and potassium carbonate (481 mg, 3.48 mmol) were stirred at room temperature in a mixture of 3 mL methyl alcohol and 0.5 mL water for 3 h. Solvents were evaporated and the residue taken up in 25 mL ether was washed with water (5 mL) and brine (20 mL), dried (Na2SO4), filtered and evaporated. Purification on silica gel using an ISCO column with 15:1 hexane:EtOAc gave intermediate BH (271 mg, yield 76%). 1H NMR (300 MHz, CDCl3): δ 7.27-7.07 (m, 7H), 4.02 (s, 2H), 3.84 (m, 2H), 2.86 (m, 3H); LC-ESI-MS (m/z): 325 (M+H).

reactant | 4-(5-bromo-2-chlorobenzyl)phenethyl acetate | 1.09 mmol, 400 mg | C(C)(=O)OCCC1=CC=C(C=C1)CC1=C(C=CC(=C1)Br)Cl | C17H16BrClO2
reactant | potassium carbonate | 3.48 mmol, 481 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methyl alcohol | 3 mL | CO | CH4O
solvent | water | 0.5 mL | O | H2O
product | 2-(4-(5-bromo-2-chlorobenzyl)phenyl)ethanol | yield 76% | BrC=1C=CC(=C(CC2=CC=C(C=C2)CCO)C1)Cl | C15H14BrClO
